US05442060
To a suspension of 0.40 g of sodium hydride (60% oil dispersion, 10 mmol) in 10 ml of N,N-dimethylformamide was dropwise added 1.60 g (10 mmol) of diethyl malonate under ice cooling, and the resultant mixture was stirred for 30 minutes. To this mixture were added a solution of 3.14 g (10 mmol) of 2-(2, 3-methylenedioxyphenyl)heptyl methanesulfonate, intermediate in Reference Example 1. in 6 ml of N,N-dimethylformamide and 1.50 g (10 mmol) of sodium iodide, and the mixture was stirred at 100° C. for 2 hours. After cooling, the mixture was mixed with water and shaken with ethyl acetate. The extract was washed with saturated saline, dried over anhydrous magnesium sulfate and the solvent was evaporated in vacuo. The residue was chromatographed on a column of silica gel, eluting with ethyl acetate/hexane (1/10) to give 1.49 g of 2-(2, 3-methylenedioxyphenyl)heptylmalonic acid diethyl ester as an oil.

reactant | sodium hydride | 10 mmol, 0.40 g | [H-].[Na+]
reactant | diethyl malonate | 10 mmol, 1.60 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-(2, 3-methylenedioxyphenyl)heptyl methanesulfonate | 10 mmol, 3.14 g | CS(=O)(=O)OCC(CCCCC)C1=C2C(=CC=C1)OCO2 | C15H22O5S
reactant | sodium iodide | 10 mmol, 1.50 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2, 3-methylenedioxyphenyl)heptylmalonic acid diethyl ester | 1.49 g | C(C)OC(C(C(=O)OCC)CC(CCCCC)C1=C2C(=CC=C1)OCO2)=O | C21H30O6
